US05385897
2.182 g of 1,1-dimethylethyl (6S,7S) 7-[-2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-8-oxo-3-chloromethyl-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylate, prepared as in Step G of reference Example B and 1.679 g of triphenyl phosphine were dissolved in 24 ml of tetrahydrofuran, and 14.1 g of silica were added. The tetrahydrofuran was distilled off under reduced pressure over 2 hours and the remainder was cooled, stirred for 26 hours at 20° C. then chromatographed over silica (eluent, dichloromethane-methanol, 9/11) to obtain 1.89 g of (6S,7S) 7-[(2-triphenylmethylaminothiazol-4-yl)-2-(Z)-methoxyimino-acetamido]-2-[(1,1-dimethylethyl)-oxycarbonyl]-8-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-ene-3-yl-methyl-triphenyl-phosphonium chloride.

reactant | 1,1-dimethylethyl (6S,7S) 7-[-2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-8-oxo-3-chloromethyl-4-thia-1-azabicyclo[4,2,0]oct-2-en-2-carboxylate | 2.182 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2CSC(=C(N2C1=O)C(=O)OC(C)(C)C)CCl)=NOC | C37H36ClN5O5S2
reactant | triphenyl phosphine | 1.679 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | (6S,7S) 7-[(2-triphenylmethylaminothiazol-4-yl)-2-(Z)-methoxyimino-acetamido]-2-[(1,1-dimethylethyl)-oxycarbonyl]-8-oxo-4-thia-1-azabicyclo[4,2,0]oct-2-ene-3-yl-methyl-triphenyl-phosphonium chloride | 1.89 g | [Cl-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2CSC(=C(N2C1=O)C(=O)OC(C)(C)C)C1=C(C=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C)=N/OC | InChI=1S/C55H50N5O5PS2.ClH/c1-54(2,3)65-52(63)48-49(42-33-21-22-34-45(42)66(5,40-29-17-9-18-30-40)41-31-19-10-20-32-41)67-36-44-47(51(62)60(44)48)57-50(61)46(59-64-4)43-35-68-53(56-43)58-55(37-23-11-6-12-24-37,38-25-13-7-14-26-38)39-27-15-8-16-28-39;/h6-35,44,47H,36H2,1-5H3,(H-,56,57,58,61);1H/b59-46-;/t44-,47+;/m1./s1
